US04942143
Theobromine and 6-(4-chlorophenoxy)hexyl bromide were reacted and treated in substantially the same manner as described in Example 9(a) to give 6-(4-chlorophenoxy)hexyltheobromine (61%).

reactant | Theobromine | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | 6-(4-chlorophenoxy)hexyl bromide | ClC1=CC=C(OCCCCCCBr)C=C1 | C12H16BrClO
product | 6-(4-chlorophenoxy)hexyltheobromine | 61% | ClC1=CC=C(OCCCCCCN2C(=O)N(C)C=3N=CN(C)C3C2=O)C=C1 | C19H23ClN4O3
